US07507748B2
2-(Isoquinolin-7-ylamino)-N-(4-pentafluoroethyl-phenyl)-nicotinamide
To a mixture of 2-fluoro-N-(4-pentafluoroethyl-phenyl)-nicotinamide (112 mg) and 7-aminoisoquinoline (40 mg) in t-BuOH (0.5 mL) was added TFA (94 μL). The resulting mixture was stirred for 24 h at 90° C., cooled to RT and purified by flash chromatography (4:1:0.1; MeOH/CH2Cl2/MeOH) to give the title compound as a yellow solid. MS (ES+): 459 (M+H)+. Calc'd for C23H15F5N4O— 458.12.

reactant | 2-fluoro-N-(4-pentafluoroethyl-phenyl)-nicotinamide | 112 mg | FC1=C(C(=O)NC2=CC=C(C=C2)C(C(F)(F)F)(F)F)C=CC=N1 | C14H8F6N2O
reactant | 7-aminoisoquinoline | 40 mg | NC1=CC=C2C=CN=CC2=C1 | C9H8N2
reactant | TFA | 94 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
product | 2-(Isoquinolin-7-ylamino)-N-(4-pentafluoroethyl-phenyl)-nicotinamide | C1=NC=CC2=CC=C(C=C12)NC1=C(C(=O)NC2=CC=C(C=C2)C(C(F)(F)F)(F)F)C=CC=N1 | C23H15F5N4O
